US06020347
PREPARATION OF 4-PIPERIDINE CARBOXYLIC ACID INTERMEDIATES
Preparation of N-FMOC-4-methyl-4-piperidinecarboxylic acid was prepared as described in Step D of Preparation 2 utilizing the product of Step B as starting material, except as follows. After stirring the reaction mixture overnight in the presence of FMOCCl the mixture was concentrated in vacuo to remove dioxane. The aqueous phase was diluted with water and extracted with ether. The desired product was extracted into the ether phase (salt is soluble in ether). The combined ether and aqueous phase were acidified and extracted with ether. The combined ethereal phases were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography over silica gel eluting with 5%MeOH/CH2Cl2 to give the desired product. 1H-NMR (CDCl3, 400 Mhz):1.22 (s, 3H); 1.40 (bm, 2H); 2.02 (bs, 2H); 3.05 (bs,2H); 3.75 and 3.85 (bs, 1H); 4.21 (t, 1H); 4.41 (d, 2H) 7.29 (t, 2H); 7.38 (t, 2H); 7.55 (d, 2H); 7.75 (d, 2H).

reactant | N-FMOC-4-methyl-4-piperidinecarboxylic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCC(CC1)(C(=O)O)C | C22H23NO4
reactant | FMOCCl | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
product | 4-PIPERIDINE CARBOXYLIC ACID | N1CCC(CC1)C(=O)O | C6H11NO2
